US06187774B1
By the same reaction and treatment as in Example 48 using cycloheptanone oxime and ethyl 4-(4-(4-fluorophenyl)piperazin-1-yl)-n-butyrate, 3-(3-(4-(4-fluorophenyl)piperazin-1-yl)propyl)-5,6,7,8-tetrahydro-4H-cyclohepta[c]isoxazole is obtained.

reactant | cycloheptanone oxime | C1(CCCCCC1)=NO | C7H13NO
reactant | ethyl 4-(4-(4-fluorophenyl)piperazin-1-yl)-n-butyrate | FC1=CC=C(C=C1)N1CCN(CC1)CCCC(=O)OCC | C16H23FN2O2
product | 3-(3-(4-(4-fluorophenyl)piperazin-1-yl)propyl)-5,6,7,8-tetrahydro-4H-cyclohepta[c]isoxazole | FC1=CC=C(C=C1)N1CCN(CC1)CCCC1=C2C(=NO1)CCCCC2 | C21H28FN3O
